US07982058B2
A mixture consisting of methanol, Pd/C catalyst, (R)-6-hydroxymethyl-4-phenylchroman-2-(R)-ol, and an excess of diisopropyl amine will be hydrogenated at ambient temperature at a pressure of 4 bar. After at least 18 hours, the reaction mixture will be filtered and evaporated to dryness. Subsequently, it is treated with 1 molar equivalent of a solution of lithium aluminium hydride in tetrahydrofuran for cleaving any cyclic hemiaminal. The reaction is quenched with water, and the product will be extracted with ethyl acetate. Removal of the solvent and drying in vacuum provides (R)-4-hydroxymethyl-2-(3-diisopropylamino-1-phenylpropyl)-phenol in the form of a colourless oil.

reactant | (R)-6-hydroxymethyl-4-phenylchroman-2-(R)-ol | OCC=1C=C2[C@H](C[C@@H](OC2=CC1)O)C1=CC=CC=C1 | C16H16O3
reactant | diisopropyl amine | C(C)(C)NC(C)C | C6H15N
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | (R)-4-hydroxymethyl-2-(3-diisopropylamino-1-phenylpropyl)-phenol | OCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C22H31NO2
